US07105682B2
Step B: Preparation of 1-(tert-butyl)-2-bromo-4-nitrobenzene
Bromine (17.4 ml) was added dropwise over 40 min to a stirred mixture of 4-tert-butylnitrobenzene (59.5 g, 332 mmol), silver(II)sulfate (56.5 g, 181 mmol), H2SO4 (300 ml), and H2O (33 ml) at RT. The mixture was stirred for a further 3 h and then poured into 0.1 M Na2S2O5/H2O (1 L) The solid was filtered, washed with H2O, Et2O, and CH2Cl2. The filtrate layers were separated. The aqueous fraction was extracted with Et2O. The combined organic layers were combined, dried over Na2SO4, and concentrated in vacua. The yellow solid was triturated with hexanes to give a pale yellow crystalline solid.

reactant | Bromine | 17.4 ml | BrBr | Br2
reactant | 4-tert-butylnitrobenzene | 332 mmol, 59.5 g | C(C)(C)(C)C1=CC=C(C=C1)[N+](=O)[O-] | C10H13NO2
reactant | H2SO4 | 300 ml | OS(=O)(=O)O | H2O4S
catalyst | silver(II)sulfate | 181 mmol, 56.5 g | S(=O)(=O)([O-])[O-].[Ag+2]
solvent | H2O | 33 ml | O | H2O
product | 1-(tert-butyl)-2-bromo-4-nitrobenzene | C(C)(C)(C)C1=C(C=C(C=C1)[N+](=O)[O-])Br | C10H12BrNO2
